US06521643B1
To a solution of methylamine in methanol (40% w/w, 5 ml) was added 2-chloro-7-(4-methoxypyridin-2-yl)quinoline (140 mg). The mixture was heated in a steel autoclave at 120° C. for 16 hours. After cooling, the solvent was evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 25 g, 5% methanol in dichloromethane). The compound obtained was dissolved in ethyl acetate, and a solution of hydrogen chloride in 1,4-dioxane (4N, 1 ml) was added. The precipitate was collected by filtration and dried to give 7-(4-methoxypyridin-2-yl)-2-methylaminoquinoline dihydrochloride (106 mg).

reactant | methylamine | CN | CH5N
reactant | 2-chloro-7-(4-methoxypyridin-2-yl)quinoline | 140 mg | ClC1=NC2=CC(=CC=C2C=C1)C1=NC=CC(=C1)OC | C15H11ClN2O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 4N, 1 ml | O1CCOCC1 | C4H8O2
product | 7-(4-methoxypyridin-2-yl)-2-methylaminoquinoline dihydrochloride | 106 mg | Cl.Cl.COC1=CC(=NC=C1)C1=CC=C2C=CC(=NC2=C1)NC | InChI=1S/C16H15N3O.2ClH/c1-17-16-6-5-11-3-4-12(9-15(11)19-16)14-10-13(20-2)7-8-18-14;;/h3-10H,1-2H3,(H,17,19);2*1H
